US06281357B1
(a) Methyl (N-diphenylmethyl-N-methylsulfamoyl)acetate
The subtitle compound (3.05 g, 37%) was prepared as a clear brown oil from N-methyl benzhydrylamine (prepared according to the method of Z. Horii, T Sakai and Inoi, Pharm Bull., 1955, 3, 159) (10.7 g, 50.7 mmol) and methyl chlorosulfonylacetate (4.27 g, 24.7 mmol), using the method of Example 1(a).

reactant | N-methyl benzhydrylamine | CNC(C1=CC=CC=C1)C1=CC=CC=C1 | C14H15N
reactant | methyl chlorosulfonylacetate | 24.7 mmol, 4.27 g | ClS(=O)(=O)CC(=O)OC | C3H5ClO4S
product | Methyl (N-diphenylmethyl-N-methylsulfamoyl)acetate | 3.05 g, 37% | C1(=CC=CC=C1)C(N(S(=O)(=O)CC(=O)OC)C)C1=CC=CC=C1 | C17H19NO4S
